US05128355
A mixture of 2.06 g of 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole and 3.08 g of activated manganese dioxide in 20 mL of methylene chloride at 25° C. was stirred for 40 hours. The reaction mixture was filtered through Celite®, and the filtrate concentrated in vacuo. Column chromatography (elution: ethyl acetate/benzene) provided 1.15 g of 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-butyl-4-chloroimidazole-5-carboxaldehyde. NMR (200 MHz, CDCl3)δ 9.76 (s, 1H); 7.83 (d of d, 1H); 7.52 (t of d, 1H); 7.40 (t of d, 1H); 7.31 (d of d, 1H); 7.17 (A2B2, 4H); 5.58 (s, 2H); 3.63 (s, 3H); 2.67 (t, 2H); 1.70 (quint., 2H); 1.38 (sext., 2H); 0.90 (t, 3H).

reactant | 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-butyl-4-chloro-5-hydroxymethylimidazole | 2.06 g | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)Cl)CCCC | C23H25ClN2O3
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 3.08 g | [O-2].[O-2].[Mn+4]
product | 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-butyl-4-chloroimidazole-5-carboxaldehyde | 1.15 g | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C=O)Cl)CCCC | C23H23ClN2O3
